US08486940B2
3-(1H-benzo[d]imidazol-5-yl)-4-(4-(4-morpholinocyclohexyl)phenyl)oxazolidin-2-one
The compound was synthesized according to method 5 starting from n-butyl lithium (2.3M in hexane; 3.66 mL, 7.32 mmol), tri phenyl phosphonium bromide (2.6 g, 7.32 mmol), 4-(4-morpholinocyclohexyl)benzaldehyde (1 g, 3.66 mmol), t-butyl hypochlorite (1.13 mL, 8.85 mmol), Boc carbamate (1.03 g, 8.85 mmol) 0.4M aqueous sodium hydroxide (360 mg in 10 mL), (DHQ)2PHAL (114 mg, mmol), potassium osmate dihydrate (40 mg, 0.12 mmol), thionyl chloride (0.6 mL, 8 mmol), 1,2-diamino-4-bromobenzene (160 mg, 0.84 mmol) and cesium fluoride (190 mg, 1.26 mmol), copper iodide (25 mg, 0.13 mmol) and 1,2-diaminocyclohexane (15 mg, 0.13 mmol), formic acid (10 mL). Yield: 40 mg (2.4%), MS m/z 447.4 (M+H)+; 1H-NMR (400 MHz, DMSO-d6): δ 12.38 (s, 1H); 8.15 (s, 1H); 7.60-7.16 (m, 6H); 5.69 (t, 1H); 4.8 (t, 1H); 4.13-4.10 (q, 1H); 3.57 (t, 4H); 2.56 (merged with DMSO, 1H); 2.33 (s, 4H); 2.11 (s, 1H); 1.91-1.67 (m, 5H); 1.45-1.38 (m, 4H), HPLC (λ=214 nm, [A]: rt 7.95 min (97.87%)

reactant | n-butyl lithium | 7.32 mmol, 2.3M, 3.66 mL | C(CCC)[Li]
reactant | tri phenyl phosphonium bromide | 7.32 mmol, 2.6 g | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-(4-morpholinocyclohexyl)benzaldehyde | 3.66 mmol, 1 g | O1CCN(CC1)C1CCC(CC1)C1=CC=C(C=O)C=C1 | C17H23NO2
reactant | t-butyl hypochlorite | 8.85 mmol, 1.13 mL | ClOC(C)(C)C | C4H9ClO
reactant | Boc carbamate | 8.85 mmol, 0.4M, 10 mL, 1.03 g | C(N)(OC(=O)OC(C)(C)C)=O | C6H11NO4
reactant | (DHQ)2PHAL | 114 mg | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | thionyl chloride | 8 mmol, 0.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1,2-diamino-4-bromobenzene | 0.84 mmol, 160 mg | NC1=C(C=C(C=C1)Br)N | C6H7BrN2
reactant | cesium fluoride | 1.26 mmol, 190 mg | [F-].[Cs+]
reactant | 1,2-diaminocyclohexane | 0.13 mmol, 15 mg | NC1C(CCCC1)N | C6H14N2
catalyst | copper iodide | 0.13 mmol, 25 mg | [Cu](I)I
solvent | formic acid | 10 mL | C(=O)O | CH2O2
product | 3-(1H-benzo[d]imidazol-5-yl)-4-(4-(4-morpholinocyclohexyl)phenyl)oxazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(OCC2C2=CC=C(C=C2)C2CCC(CC2)N2CCOCC2)=O | C26H30N4O3
